US05686482
In a stream of argon, 3.08 g of 4-amino-5-chloro-2-methoxybenzoic acid and 1.00 g of cyclohexanone were added to 30 ml of acetic acid at room temperature, 4.30 g of sodium triacetoxyborohydride was added in small portions to the above solution, and then the resulting mixture was stirred for 1 hour. After completion of the reaction, the solvent was evaporated and the resulting residue was mixed with water, extracted with chloroform and then washed with saturated brine. After drying over anhydrous sodium sulfate, the solvent was evaporated under a reduced pressure and the resulting residue was purified by silica gel column chromatography (chloroform:methanol=100:1-50:1) to give 0.37 g of 5-chloro-4-cyclohexylamino-2-methoxybenzoic acid.

reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 3.08 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
reactant | cyclohexanone | 1.00 g | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | 4.30 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-4-cyclohexylamino-2-methoxybenzoic acid | 0.37 g | ClC=1C(=CC(=C(C(=O)O)C1)OC)NC1CCCCC1 | C14H18ClNO3
